US06420375B1
Preparation of 2-hydroxymethylbenzofuran
The reaction of 2-ethoxycarbonylbenzofurane (27.40 g) with diisobutylaluminum hydride was carried out in the manner similar to that described in Reference Example 3 to give the titled compound (16.91 g) as a colorless oil. This compound was used without further purification.

reactant | 2-ethoxycarbonylbenzofurane | 27.40 g | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2 | C11H10O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | 2-hydroxymethylbenzofuran | 16.91 g | OCC=1OC2=C(C1)C=CC=C2 | C9H8O2
